* C:\Users\Parmeet Singh Ghai\Documents\GitHub\AutomatedLockSystem\LTSpice\Draft3_CD4060.asc
XU1 N002 N005 Q1 Q2 Q3 Q4 Q5 Q6 Q7 Q8 Q9 Q10 Q11 Q12 VCC 0 CD4040B vdd=5 speed=1 tripdt=5n vdd1={vdd} speed1={speed} tripdt1={tripdt}
XU2 0 VCC N001 LT1086-5
C1 N001 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C3 N001 0 10µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61E106KA73" type="X5R"
C2 VCC 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C4 VCC 0 10µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61E106KA73" type="X5R"
V2 N001 0 8.4 Rser=0.150
D5 Q4 N003 1N4148
D6 Q5 N003 1N4148
D7 Q7 N003 1N4148
D8 Q8 N003 1N4148
D9 Q9 N003 1N4148
D10 Q10 N003 1N4148
D11 Q11 N003 1N4148
D12 Q12 N003 1N4148
R4 N005 N004 4.7K
XU5 M4 M3 M2 M1 NC_01 NC_02 NC_03 0 NC_04 NC_05 NC_06 NC_07 N016 N017 N018 N022 ULN2003
S§F_PHOTO_TRANSISTOR 0 F_PHOTO_COLLECTOR F_PHOTO 0 switch
V§R_EMITTER1 N030 0 PULSE(0 5 5 1n 1n 5 10)
S§R_PHOTO_TRANSISTOR 0 R_PHOTO_COLLECTOR R_PHOTO 0 switch
V§F_EMITTER1 N029 0 PULSE(0 5 0 1n 1n 5 10)
R26 P001 N003 4.7K
XU9 N015 N015 N015 N019 HOUR_CLOCK VCC 0 74HC21 vcc=5 speed=1 tripdt=5n vcc1={vcc} speed1={speed} tripdt1={tripdt}
C16 VCC 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C17 VCC 0 10µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61E106KA73" type="X5R"
M1 N015 P001 0 0 AO6408
R34 N003 0 47K
V3 N004 0 PULSE(0 5 0 1n 1n 0.5 1)
R3 N015 VCC 4.7K
D3 N019 Q1 1N4148
D4 N019 Q2 1N4148
D13 N019 Q3 1N4148
D14 N019 Q6 1N4148
R2 N019 VCC 4.7K
R15 HOUR_CLOCK N002 4.7K
XU7 N020 P002 C0 C1 C2 C3 C4 NC_08 NC_09 NC_10 NC_11 NC_12 NC_13 NC_14 VCC 0 CD4040B vdd=5 speed=1 tripdt=5n vdd1={vdd} speed1={speed} tripdt1={tripdt}
R16 HOUR_CLOCK P002 4.7K
R18 0 N020 47K
C5 VCC 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C9 VCC 0 10µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61E106KA73" type="X5R"
C10 VCC 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C12 VCC 0 10µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61E106KA73" type="X5R"
R6 C3 N020 4.7K
R19 P003 VCC 4.7K
D§SECOND_SIGNAL P003 Q1 AOT-2015
R1 C0 P004 4.7K
R20 C1 P005 4.7K
R22 C2 P006 4.7K
R23 C3 P007 4.7K
R24 C4 P008 4.7K
D1 P004 0 D
D15 P005 0 D
D17 P006 0 D
D18 P007 0 D
D19 P008 0 D
XU3 N006 N012 N014 P009 N008 N009 N013 VCC 0 CD4015B vdd=5 speed=1 tripdt=5n vdd1={vdd} speed1={speed} tripdt1={tripdt}
C6 VCC 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C7 VCC 0 10µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61E106KA73" type="X5R"
R5 N012 MOTOR_CLOCK 4.7K
M2 N006 P010 0 0 AO6408
R7 P010 N007 4.7K
R8 N006 VCC 4.7K
XU4 N006 N024 N026 N027 N021 N023 N025 VCC 0 CD4015B vdd=5 speed=1 tripdt=5n vdd1={vdd} speed1={speed} tripdt1={tripdt}
C8 VCC 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C13 VCC 0 10µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61E106KA73" type="X5R"
R9 N024 MOTOR_CLOCK 4.7K
D20 P009 M4 1N4148
D21 N008 M3 1N4148
D22 N009 M2 1N4148
D23 N013 M1 1N4148
D24 N021 M2 1N4148
D25 N023 M3 1N4148
D26 N025 M4 1N4148
D27 N027 M1 1N4148
V1 MOTOR_CLOCK 0 PULSE(0 5 0 1n 1n 0.1 0.2)
R§MOTOR1 VCC N022 100
R§MOTOR2 VCC N018 100
R§MOTOR3 VCC N017 100
R§MOTOR4 VCC N016 100
D2 N008 N007 1N4148
D16 N021 N007 1N4148
R10 N007 0 47K
M4 F_RESET F_PHOTO_COLLECTOR VCC VCC AO6407
M5 R_RESET R_PHOTO_COLLECTOR VCC VCC AO6407
R11 R_PHOTO_COLLECTOR VCC 4.7K
R13 F_PHOTO_COLLECTOR VCC 4.7K
R14 N014 F_RESET 4.7K
R17 N026 R_RESET 4.7K
R25 R_RESET 0 47K
D29 R F_RESET 1N4148
V§"R"_TestCondition N028 0 PULSE(0 5 0 1n 1n 10 20)
R27 R R_PHOTO_COLLECTOR 4.7K
V§DELAY_PULSE N010 0 PWL(0 5 1 5 1.1 0)
A1 N028 0 0 0 0 R 0 0 BUF Vhigh=5
A2 N029 0 0 0 0 F_PHOTO 0 0 BUF Vhigh=5
D30 N010 N011 1N4148
C11 N011 0 100µ V=25 Irms=300m Rser=0.284 Lser=21.232n mfg="Würth Elektronik" pn="865080449011 WCAP-ASLI 8x6,5" type="Al electrolytic"
R21 N014 0 47K
M3 F_PHOTO_COLLECTOR N011 0 0 AO6408
R12 N011 0 100K
A3 N030 0 0 0 0 R_PHOTO 0 0 BUF Vhigh=5
.model D D
.lib C:\Users\Parmeet Singh Ghai\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Parmeet Singh Ghai\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 1000 0 10 uic
.options reltol=0.01 abstol=1n chgtol=1p
.options gmin=1n cshunt=1p
.options itl1=500 itl2=5000 itl4=100
.include cd4000.lib
.include 74hc.lib
.model switch SW(ron=0.01 roff=1MEG vt=4.9 vh=0)
* The Trigger BIT will remain active \nfor TWICE its own period before\nthe hour clock resets again.\ne.g - if its set for BIT 5 then at 32th\ncount R signal will be trigger and it \nwill remain active till 64th count at \nwhich the hour clock will reset
* RESET is always ONE BIT \nahead of the R/TRIGGER BIT
* Test Condition:\n1) Charge Delay Cap. Test if Forward is delayed or not\n2) Stop Forward . Make Sure All Motor Outputs are Stopped\n3) When "R" is enabled then Turn Forward PhotoTransistor OFF\n4) Turn On Reverse Photo Transistor to make reverse is OFF while "R" is still on \n5) while "R" is still on. make sure both Forward and Reverse are TURNED OFF\n6) when "R" is off then Forward should turn back on
.lib 74hc.lib
.lib C:\Users\Parmeet Singh Ghai\Documents\GitHub\AutomatedLockSystem\LTSpice\CD4015B.sub
.lib C:\Users\Parmeet Singh Ghai\Documents\GitHub\AutomatedLockSystem\LTSpice\ULN2003.lib
.lib CD4000.lib
.lib LT1083.lib
.backanno
.end
